US07737135B2
a) 3,5′-dichloro-2′-methoxy-[1,1′-biphenyl]-4-carboxylic acid
4-bromo-2-chlorobenzoic acid (0.4 g), 5-chloro-2-methoxybenzoic acid (0.4 g), Pd(dppf)Cl2 (0.12 g), sodium carbonate (0.9 g), dioxan (15 ml) and methanol (5 ml) were charged to a flask and heated at reflux for 16 h. Cooled to room temp and filtered (hyflo). The filtrate was concentrated in vacuo, then dissolved in ethyl acetate. The suspension was made basic by addition of dilute NaOH. The aqueous layer was separated and acidified using 2M HCl, extracted with EtOAc, dried (MgSO4) and evaporated in vacuo to give the sub-title compound Yield 0.4 g

reactant | 4-bromo-2-chlorobenzoic acid | 0.4 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | 5-chloro-2-methoxybenzoic acid | 0.4 g | ClC=1C=CC(=C(C(=O)O)C1)OC | C8H7ClO3
reactant | sodium carbonate | 0.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxan | 15 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.12 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | methanol | 5 ml | CO | CH4O
product | 3,5′-dichloro-2′-methoxy-[1,1′-biphenyl]-4-carboxylic acid | Yield 0.4 g | ClC=1C=C(C=CC1C(=O)O)C1=C(C=CC(=C1)Cl)OC | C14H10Cl2O3
